************************************************************************
* auCdl Netlist:
* 
* Library Name:  bitslice_rv32Lib
* Top Cell Name: cmp
* View Name:     schematic
* Netlisted on:  Mar 22 21:16:12 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 A B Z
*.PININFO A:I B:I Z:O
MM1 net8 A vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM0 Z B net8 vss! NMOS_VTL W=180.0n L=50n m=1
MM3 Z B vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM2 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 A B Z
*.PININFO A:I B:I Z:O
MM1 Z B vss! vss! NMOS_VTL W=90n L=50n m=1
MM0 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
MM3 Z B net5 vdd! PMOS_VTL W=360.0n L=50n m=1
MM2 net5 A vdd! vdd! PMOS_VTL W=360.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    xnor2
* View Name:    schematic
************************************************************************

.SUBCKT xnor2 A B Z
*.PININFO A:I B:I Z:O
MM6 net8 A vdd! vdd! PMOS_VTL W=270.0n L=50n m=1
MM5 Z B net8 vdd! PMOS_VTL W=270.0n L=50n m=1
MM4 Z net4 vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 net4 B vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM0 net4 A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM9 net3 net4 vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM8 Z B net3 vss! NMOS_VTL W=180.0n L=50n m=1
MM7 Z A net3 vss! NMOS_VTL W=180.0n L=50n m=1
MM3 net1 B vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM2 net4 A net1 vss! NMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: bitslice_rv32Lib
* Cell Name:    cmp
* View Name:    schematic
************************************************************************

.SUBCKT cmp cmp_eq_in cmp_eq_out cmp_lt_in cmp_lt_out cmp_mux_out rs1_rdata
*.PININFO cmp_eq_in:I cmp_lt_in:I cmp_mux_out:I rs1_rdata:I cmp_eq_out:O 
*.PININFO cmp_lt_out:O
XI10 net7 net8 cmp_lt_out / nand2
XI9 net3 cmp_eq_in net7 / nand2
XI0 cmp_eq_in net1 net5 / nand2
XI2 rs1_rdata net2 net3 / nor2
XI11 cmp_lt_in net8 / inv
XI8 cmp_mux_out net2 / inv
XI3 net5 cmp_eq_out / inv
XI12 rs1_rdata cmp_mux_out net1 / xnor2
.ENDS

