************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_425Lib
* Top Cell Name: dlatch
* View Name:     schematic
* Netlisted on:  Feb 26 16:46:03 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vdd!
*+    vss!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    transmission
* View Name:    schematic
************************************************************************

.SUBCKT transmission A Z g gb
*.PININFO g:I gb:I A:B Z:B
MM1 A g Z vss! NMOS_VTL W=90n L=50n m=1
MM0 A gb Z vdd! PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    dlatch
* View Name:    schematic
************************************************************************

.SUBCKT dlatch D EN Q Qb
*.PININFO D:I EN:I Q:O Qb:O
XI7 net3 Q / inv
XI8 Q Qb / inv
XI10 ENB1 EN1 / inv
XI5 EN ENB1 / inv
XI3 D net2 / inv
XI9 Qb net3 ENB1 EN1 / transmission
XI4 net2 net3 EN1 ENB1 / transmission
.ENDS

